US09376422B2
Step 5: methyl 5-bromo-2-methyl-3-(methyl(1-methylpiperidin-4-yl)amino)benzoate
To a stirred solution of methyl 5-bromo-2-methyl-3-((1-methylpiperidin-4-yl)amino)benzoate (0.6 g, 1.76 mmol) in acetonitrile (15 mL), cesium carbonate (1.14 g, 3.52 mmol) and methyl iodide (1.2 g, 8.8 mmol) were added; resulting reaction mass was heated at 80° C. for 7 h. On completion, reaction mass was cooled to room temperature and filtered, residue was washed with ethyl acetate and filtrate was concentrated and then purified by column chromatography to afford the desired compound (0.5 g, 80%).

reactant | methyl 5-bromo-2-methyl-3-((1-methylpiperidin-4-yl)amino)benzoate | 1.76 mmol, 0.6 g | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCN(CC1)C | C15H21BrN2O2
reactant | cesium carbonate | 3.52 mmol, 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 8.8 mmol, 1.2 g | CI | CH3I
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | methyl 5-bromo-2-methyl-3-(methyl(1-methylpiperidin-4-yl)amino)benzoate | 0.5 g, 80% | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCN(CC1)C)C | C16H23BrN2O2
